US08455663B2
Dimethyl-1-diazo-2-oxypropylphosphonate (0.48 g, 2.5 mmol) was added to a solution of 2-(2-chloro-3-formyl-phenoxy)-butyronitrile (0.4 g, 1.8 mmol) in MeOH (40 ml) at room temperature under argon. The solution was cooled to 0° C. and K2CO3 was added. After the addition stirring was continued for 48 h at room temperature. Reaction mixture was then poured into cold water (0° C.) and extracted twice with ethylacetate. The combined organic layers were dried with MgSO4 and evaporated. The crude product was chromatographed on silica with ethylacetate/cyclohexane to yield 2-(2-chloro-3-ethynyl-phenoxy)-butyrimidic acid methyl ester (0.32 g, light yellow oil); 1H-NMR (CDCl3) 1.05 t, 3H, 1.85-2.03 m, 2H, 3.39, s, 1H, 4.52 dd, 1H, 6.78 d, 1H, 7.12 t, 1H, 7.19 d, 1H, 7.72, br s, 1H.

reactant | 2-(2-chloro-3-formyl-phenoxy)-butyronitrile | 1.8 mmol, 0.4 g | ClC1=C(OC(C#N)CC)C=CC=C1C=O | C11H10ClNO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
reactant | MeOH | 40 ml | CO | CH4O
product | 2-(2-chloro-3-ethynyl-phenoxy)-butyrimidic acid methyl ester | COC(C(CC)OC1=C(C(=CC=C1)C#C)Cl)=N | C13H14ClNO2
